US08222248B2
A solution of 3-fluoro-4-nitrobenzoic acid (2 g), 3,4-dimethylaniline (1.25 g), BOP (5.45 g) and DIEA (2.69 mL) in DMF (20 mL) was stirred at room temperature for 20 h. Then 1N NaOH aqueous solution was added (pH˜12). The aqueous layer was extracted with EtOAc. The organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was washed with CH2Cl2/MeOH mixture, and the solid was filtered to give N-(3,4-dimethyl-phenyl)-3-fluoro-4-nitrobenzamide as a yellow solid: MS (m/z) 289 (M+1); 1H NMR (DMSO-d6, 400 MHz) δ 10.39 (s, 1H), 8.30 (t, 1H), 8.10 (d, 1H), 7.97 (d, 1H), 7.53 (s, 1H), 7.49 (d, 1H), 7.13 (d, 1H), 2.23 (s, 3H), 2.20 (s, 3H).

reactant | 3-fluoro-4-nitrobenzoic acid | 2 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | 3,4-dimethylaniline | 1.25 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | BOP | 5.45 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 2.69 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-(3,4-dimethyl-phenyl)-3-fluoro-4-nitrobenzamide | CC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C15H13FN2O3
